US05721231
6-Amino-4-(4-chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2- f][1,2,4]triazolo[4,3-a][1,4]diazepine (4 g) was dissolved in chloroform (30 ml). 2-Methoxyphenyl isocyanate (1.7 ml) was added, and the mixture was stirred for 30 minutes. The reaction mixture was subjected to silica gel column chromatography, and the resultant crystals were recrystallized from ethanol to give 5.14 g of N-(4-(4-chlorophenyl)-2,3,9- trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin- 6-yl)-N'-(2-methoxyphenyl)urea, melting point 261°-262° C.

reactant | 6-Amino-4-(4-chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2- f][1,2,4]triazolo[4,3-a][1,4]diazepine | 4 g | NC1C=2N(C3=C(C(=N1)C1=CC=C(C=C1)Cl)C(=C(S3)C)C)C(=NN2)C | C17H16ClN5S
reactant | 2-Methoxyphenyl isocyanate | 1.7 ml | COC1=C(C=CC=C1)N=C=O | C8H7NO2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-(4-chlorophenyl)-2,3,9- trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin- 6-yl)-N'-(2-methoxyphenyl)urea | 5.14 g | ClC1=CC=C(C=C1)C1=NC(C=2N(C3=C1C(=C(S3)C)C)C(=NN2)C)NC(=O)NC2=C(C=CC=C2)OC | C25H23ClN6O2S
